US06169107A
After 0.50 g (1.97 mmol) of ethyl 4-chloro-7-hydroxy-1-methyl-2-indolecarboxylate was added to a suspension of 0.16 g (3.94 mmol) of 60% sodium hydride and 10 ml of dimethylformamide, the suspension was stirred at room temperature for 30 minutes. Then 0.28 g (1.9.7 mmol) of 1-fluoro-3-nitrobenzene was added to the solution at room temperature followed by stirring for 3 hours at 150° C. After cooling, the reaction mixture was poured onto ice water. The resulting mixture was then extracted three times with ethyl acetate. The combined extracts were washed with saturated sodium chloride aqueous solution. After drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was isolated and purified by silica gel column chromatography to give 0.18 g (24.3%) of ethyl 4-chloro-1-methyl-7-(3-nitrophenoxy)-2-indolecarboxylate.

reactant | ethyl 4-chloro-7-hydroxy-1-methyl-2-indolecarboxylate | 1.97 mmol, 0.50 g | ClC1=C2C=C(N(C2=C(C=C1)O)C)C(=O)OCC | C12H12ClNO3
reactant | sodium hydride | 3.94 mmol, 0.16 g | [H-].[Na+]
reactant | 1-fluoro-3-nitrobenzene | 0.28 g | FC1=CC(=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 4-chloro-1-methyl-7-(3-nitrophenoxy)-2-indolecarboxylate | 0.18 g, 24.3% | ClC1=C2C=C(N(C2=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-])C)C(=O)OCC | C18H15ClN2O5
